US05892048
To a solution of 0.7 g of 5-(4-acetoxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole in 10 ml of ethyl alcohol under ice-cooling, was added a solution of 0.62 g of potassium carbonate in 5 ml of water, and the reaction mixture was stirred at room temperature for 30 minutes, and then concentrated under reduced pressure. The residue was adjusted to pH 4 with diluted hydrochloric acid and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel chromatography to afford 0.6 g of 5-(4-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole.

reactant | 5-(4-acetoxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.7 g | C(C)(=O)OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C18H15ClFN3O2
reactant | potassium carbonate | 0.62 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl alcohol | 10 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 5-(4-hydroxybenzyl)-3-(2-chloro-6-fluorophenyl)-1-methyl-1H-1,2,4-triazole | 0.6 g | OC1=CC=C(CC2=NC(=NN2C)C2=C(C=CC=C2F)Cl)C=C1 | C16H13ClFN3O
